US07452892B2
D. Preparation of N-hydroxy-6-methylnicotinimidoyl chloride
To a stirring mixture of 6-methylnicotinaldehyde oxime (500 mg, 3.67 mmol) in 4 mL DMF at room temperature, was added N-chlorosuccinimide (490 mg, 3.67 mmol) in roughly one tenth portions over 5 min. Additional N-chlorosuccinimide (175 mg, 1.31 mmol) was added after about 4 h. After a total of 6 h, the reaction mixture was diluted with EtOAc, washed with water, saturated aqueous NaCl, dried (Na2SO4) and filtered. The filtrate was passed through a short silica gel column eluted with EtOAc. The eluant was concentrated under vacuum to provide the title compound as a light brown solid. All of this was used in the next step without further purification. HPLC: retention time=0.44 min.

reactant | 6-methylnicotinaldehyde oxime | 3.67 mmol, 500 mg | CC1=NC=C(C=NO)C=C1 | C7H8N2O
reactant | N-chlorosuccinimide | 3.67 mmol, 490 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 1.31 mmol, 175 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-hydroxy-6-methylnicotinimidoyl chloride | ON=C(C1=CN=C(C=C1)C)Cl | C7H7ClN2O
